US06982348B2
8) tert-butyl (4RS,5SR)-2-oxo-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate
To a solution of (4RS,5SR)-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one (3.3 g, 7.14 mmol) in acetonitrile (50 ml) were added di-tert-butyl dicarbonate (1.87 g, 8.56 mmol) and 4-N,N-dimethylpyridine (87 mg, 0.71 mmol), and the mixture was stirred at room temperature for 15 min. To the reaction solution was added water (100 ml), and the mixture was extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-1:1). Recrystallization from ethyl acetate-hexane gave the objective substance (3.46 g, 86%).

reactant | (4RS,5SR)-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | 7.14 mmol, 3.3 g | N1=C(C=CC=C1)OC1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C23H18F4N2O4
reactant | di-tert-butyl dicarbonate | 8.56 mmol, 1.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tert-butyl (4RS,5SR)-2-oxo-5-[4-(pyridin-2-yloxy)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidine-3-carboxylate | O=C1OC(C(N1C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F)C1=CC=C(C=C1)OC1=NC=CC=C1 | C28H26F4N2O6
